US05334716
To a solution of chlorotrimethylsilane (16.3 g) and triethylamine (30.3 g) in N,N-dimethylformamide (50 ml) was added 4'-isobutylacetophenone (22.0 g). The yellow solid was immediately filtered off, and the filtrate was refluxed for 20 hours. The mixture was cooled, diluted with hexane, and washed with cooled aqueous sodium bicarbonate. The organic layer was dried over magnesium sulfate and concentrated. The residue was distilled under reduced pressure to give 4-isobutyl-α-trimethylsilyloxystyrene (9.0 g) as an oil.

reactant | chlorotrimethylsilane | 16.3 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 30.3 g | C(C)N(CC)CC | C6H15N
reactant | 4'-isobutylacetophenone | 22.0 g | C(C(C)C)C1=CC=C(C=C1)C(C)=O | C12H16O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-isobutyl-α-trimethylsilyloxystyrene | 9.0 g | C(C(C)C)C1=CC=C(C(=C)O[Si](C)(C)C)C=C1 | C15H24OSi
